US04497822
2-Chloro-N-[[[4-[2-chloro-4-(trifluoromethyl)phenoxy]phenyl]-N-[(trichloromethyl)thio]amino]carbonyl]benzamide (7)
A solution of 3.6 g of 2-chlorobenzoyl isocyanate in 15 ml of dry toluene was added over five minutes to a stirred solution of 4.0 g of 1,1,1-trichloro-N-[4-[2-chloro-4-(trifluoromethyl)phenoxy]phenyl]methanesulphenamide in 25 ml of the same solvent at room temperature. After 10 days, the reaction mixture was diluted with 500 ml of light petroleum andd filtered. Evaporation of the filtrate gave a crude residue from which 7 was obtained, as a solid. m.p: 68°-71° C., by rapid chromatography on silica gel using methylene chloride as eluent.

reactant | 2-chlorobenzoyl isocyanate | 3.6 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
reactant | 1,1,1-trichloro-N-[4-[2-chloro-4-(trifluoromethyl)phenoxy]phenyl]methanesulphenamide | 4.0 g | ClC(SNC1=CC=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)(Cl)Cl | C14H8Cl4F3NOS
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-N-[[[4-[2-chloro-4-(trifluoromethyl)phenoxy]phenyl]-N-[(trichloromethyl)thio]amino]carbonyl]benzamide | ClC1=C(C(=O)NC(=O)N(SC(Cl)(Cl)Cl)C2=CC=C(C=C2)OC2=C(C=C(C=C2)C(F)(F)F)Cl)C=CC=C1 | C22H12Cl5F3N2O3S
